Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
SOB
 
Major Surgical or Invasive Procedure:
TRANSCATHETER AORTIC VALVE REPLACEMENT - TRANSFEMORAL 
Transcatheter aortic valve replacement Catheter Placement, 
___ Fr Sheath Left Femoral Vein Catheter Placement, 
___ Fr Sheath Left Femoral Artery Catheter Placement, 
___ Fr E Sheath Right Femoral Artery Catheter Placement 
___ Fr sheath right radial artery Aortography, Ascending Aorta 
Sentinel Device: 
Right radial artery to right innominate and left carotid 
Transcatheter Aortic Valve Replacement 
Co-Surgeon: ___, MD 
Co-Surgeon: ___, MD 
Co-Surgeon: ___, MD 
Co-Surgeon: ___, MD 
___: 23 ___ 3 
The case complexity required a multidisciplinary approach with 
Cardiac Surgery 
and Interventional Cardiology. 
Vascular access was obtained in left common femoral using 
vascular ultrasound techniques. 
The left femoral artery was used to advance a ___ Fr Pigtail 
catheter to the right coronary sinus. 
A ___ Fr temporary pacemaker was placed in the right ventricle 
from the left femoral vein through a 
long ___ Fr sheath. 
Vascular access was obtained in the right femoral artery using 
vascular ultrasound guidance. 
A ___ Fr E sheath was placed Unfractionated heparin was given to 
achieve an ACT > 250 seconds. 
 
Aortography was used to obtained the coplanar view. 
A Sentinel device was deployed in the right subclavian artery 
and left common carotid artery. 
After the procedure, there were small bits of particulate debris 
in the filter. 
The aortic valve was crossed with a Straight wire and a JR4 was 
advance into the ventricle. 
A Pigtail catheter was exchanged and positioned in the LV apex. 
Simultaneous left ventricular and aortic pressures were recorded 
and demonstrated 
severe aortic stenosis. 
Mean gradient: 61 mmHg 
The 0.035" exchange "J" wire was exchanged for a 0.035" Confida 
wire and the Pigtail was removed. 
A 23 ___ 3 with proper fluoroscopic loading was then 
advanced to the aortic valve and inflated TTE showed trace mild 
aortic regurgitation. 
Aortography ___ d mild AR and patent coronaries. 
Mean gradient: 8 mmHg 
The right groin was closed with a two Proglides in a Pre-Close 
fashion and a one ___ Fr Angioseal 
The SFA was closed with a ___ Fr Angioseal. 
The patient was transported to the PACU in stable condition. 
Complications: There were no clinically significant 
complications. 
Impression 
• Successful transcatheter aortic valve replacement 
Recommendations 
• ASA 81mg per day. 
• Plavix 75mg/day 

 
History of Present Illness:
___ is a ___ female with past medical history
significant for severe aortic stenosis has been experiencing
worsening dyspnea on exertion as well as lower extremity edema
for the past few months.  She denies any dizziness,
lightheadedness, presyncope or syncope.  She denies any chest
pain.

She is followed by Dr. ___ underwent a stress
echocardiogram which confirmed severe aortic stenosis.  She had
very poor exercise capacity involve less than a minute on a
treadmill limited by dyspnea and fatigue.  Echo showed severe
stenosis with V-max 4.6, peak/mean gradient of 111/58 mmHg (LVOT
diameter 2.0) preserved LVEF of 60-65%.  Also noticed to have
pulmonary hypertension with RVSP of 51+ RA.

NYHA Class: III

 
Past Medical History:
Hypertension
Chronic kidney disease (but creatinine in OMR normal here?)
Glaucoma
Hypothyroidism
Allergic rhinitis
Urinary urgency

 Past Surgical History:
C-section
Left breast lumpectomy
Thyroid lobectomy right lobe

 
Social History:
___
Family History:
 No family history of premature coronary disease,
CVA or sudden cardiac death.
 
Physical Exam:
Admission:
 VS: 137/45, 76, 21, 95% 2Lnc 
 Gen:  very pleasant elderly woman lying flat in bed in NAD
 Neuro:  alert and oriented without focal deficts
 CV:  RRR, no M/R/G
 Chest:  ls CTA bilat anterior and lateral
 ABD:  soft NT/ND
 Extr:  WWP, DP palp bilat  
 Access sites:  right groin with serosang drainage on dsg, left
groin CD+I, right wrist w/o hematoma
 GU:  External catheter draining CYU
.
Discharge:
General: pleasant elderly woman sitting up in bed in NAD
Neuro: alert and oriented w/o focal deficits
Cardiac: RRR, no M/R/G
Lungs: CTA bilat anterior and posterior, breathing regular and
unlabored
Abd:  soft NT
Extremities: WWP, DP palp bilat
Access Sites: sm right suprapubic hematoma, small ecchymosis no
ooze. No bruit. Left groin w/o ecchymosis, ooze or hematoma. No
bruit. right radial site OTA w/o ooze or hematoma.
 
Pertinent Results:
Admission labs: 
___ 01:25PM BLOOD WBC-10.5* RBC-3.57* Hgb-10.7* Hct-33.8* 
MCV-95 MCH-30.0 MCHC-31.7* RDW-13.1 RDWSD-45.1 Plt ___
___ 01:25PM BLOOD Glucose-94 UreaN-15 Creat-0.9 Na-142 
K-3.9 Cl-102 HCO3-26 AnGap-14
___ 01:25PM BLOOD Calcium-9.2 Phos-4.8* Mg-1.9
.
ECHO ___:
IMPRESSION: Well-seated, normally functioning ___ 3 aortic 
bioprosthesis with trace
paravalvular leak. Mid-cavitary LVOT obstruction in the setting 
of vigorous left ventricular systolic
function. Moderate mitral regurgitation. Mild tricuspid 
regurgitation. Mild pulmonary hypertension.
Compared with the prior TTE (images reviewed) of ___ , 
the aortic valve has been replaced with a
normally functioning TAVR. Severe aortic stenosis and mild to 
moderate aortic regurgitation are no longer
appreciated. The pulmonary pressure is lower.
.
ECG ___:
Normal sinus rhythm
T wave abnormality, consider lateral ischemia
Abnormal ECG
When compared with ECG of ___ 10:06,
Non-specific change in ST segment in Anterior leads
.
labs at discharge:

___ 05:31AM BLOOD WBC-12.2* RBC-3.04* Hgb-9.1* Hct-28.2* 
MCV-93 MCH-29.9 MCHC-32.3 RDW-13.2 RDWSD-44.4 Plt ___
___ 05:31AM BLOOD UreaN-23* Creat-0.8 Na-139 K-4.3 Cl-105 
HCO3-23 AnGap-___ssessment: ___ year old woman with serve aortic stenosis
s/p TAVR complicated by LBBB now resolved

 # Severe AS: pre peak/mean 111/58. Now s/p TAVR 23 ___
with Cerebral protection. Post Echo with peak/mean ___. Start 
Plavix for 3 months and ASA for life. SBE prophylaxis info at 
___. Ziopatch at discharge for LBBB noted post procedure but 
resolved. 

 # LBBB: Seen right after procedure, now resolved. Amlodipine 
restarted yesterday. EKG showed resolution by the next day. 
Patient will get ___ of Hearts monitor at discharge.

 # HTN: Currently well controlled on amlodipine.

# CAD: 2VD 70% Lcx and 80% LAD. No CP
Asked patient if she was taking a cholesterol medication and she
believes she was taking a medication for cholesterol but is
uncertain the name, thinks the dose is 25mg. No statin on
medication history in OMR.
-Continue Aspirin
-start Atorvastatin 40mg 

 # Hypothyroid: stable. Continued Synthroid

 # Glaucoma: Continued Xalatan and timolol
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY 
2. amLODIPine 5 mg PO DAILY 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
4. Levothyroxine Sodium 75 mcg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  Clopidogrel 75 mg PO DAILY  
4.  Ramelteon 8 mg PO QHS:PRN insomnia  
5.  amLODIPine 5 mg PO DAILY  
6.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
7.  Levothyroxine Sodium 75 mcg PO DAILY  
8.  Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Aortic stenosis
Hypertension
Chronic kidney disease
Hypothyroidism
Transient Left Bundle branch block

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 You were admitted for a trans catheter aortic valve replacement 
(TAVR) to treat your aortic valve stenosis which was done on 
___. By repairing the valve your heart can pump blood more 
easily and your shortness of breath should improve. It was noted 
that you had an abnormal heart rhythm during the procedure that 
has now resolved.  

 It is very important to take all of your heart healthy 
medications. In particular, you are now taking Aspirin and 
Clopidogrel (Plavix). These medications help to prevent blood 
clots from forming on the new valve. If you stop these 
medications or miss ___ dose, you risk causing a blood clot 
forming on your new valve. This could cause it to malfunction 
and it may be life threatening. Please do not stop taking 
Aspirin or Plavix without taking to your heart doctor, even if 
another doctor tells you to stop the medications.  

 You will need prophylactic antibiotics prior to any dental 
procedure. Please inform your dentist about your recent cardiac 
procedure, and obtain a prescription from your doctor before any 
procedure. 
 Please weigh yourself every day in the morning after you go to 
the bathroom and before you get dressed. If your weight goes up 
by more than 3 lbs in 1 day or more than 5 lbs in 3 days, please 
call your heart doctor or your primary care doctor and alert 
them to this change. Your weight at discharge is 121 pounds.

You will wear a monitor a home called a Ziopatch for a few weeks 
to make sure that you remain in a normal rhythm. 
 
 We have made changes to your medication list, so please make 
sure to take your medications as directed. You will also need to 
have close follow up with your heart doctor and your primary 
care doctor.  
 If you have any urgent questions that are related to your 
recovery from your procedure or are experiencing any symptoms 
that are concerning to you and you think you may need to return 
to the hospital, please call the ___ Heart Line at 
___ to speak to a cardiologist or cardiac nurse 
practitioner.
  
 It has been a pleasure to have participated in your care and we 
wish you the best with your health.  

 
Followup Instructions:
___